US08022062B2
(±)-1-(3-Fluorophenyl)ethylamine
Add sodium cyanoborohydride (452 mg, 7.2 mmol) to a solution of 3-fluoroacetophenone (500 mg, 3.6 mmol) and ammonium acetate (2.8 g, 36 mmol) in methanol (11 mL). Stir the mixture for 96 h at ambient temperature under a nitrogen atmosphere. Adjust to pH 2 with 2M hydrogen chloride in diethyl ether. Concentrate the slurry in vacuo, dilute the residue with DCM and wash with 5N aqueous NaOH followed by saturated aqueous NaHCO3. Dry the organic layer, concentrate in vacuo to half of the volume, and load the solution onto a SCX column (pre-wash column with methanol followed by DCM, then elute with 2M ammonia in methanol). Concentrate the fractions to half of the volume to remove ammonia, add excess of 2M hydrogen chloride in diethyl ether and concentrate to obtain the hydrochloride salt (70:30 mixture of title compound and dimer). Purify by chromatography on silica gel eluting with DCM/2M ammonia in methanol (20:1) to obtain the title compound (323 mg, 51%). MS (ES+) m/z: 140 (M+H)+

reactant | sodium cyanoborohydride | 7.2 mmol, 452 mg | C(#N)[BH3-].[Na+]
reactant | 3-fluoroacetophenone | 3.6 mmol, 500 mg | CC(=O)C1=CC(=CC=C1)F | C8H7FO
reactant | ammonium acetate | 36 mmol, 2.8 g | C(C)(=O)[O-].[NH4+]
reactant | hydrogen chloride | 2M | Cl | ClH
solvent | methanol | 11 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (±)-1-(3-Fluorophenyl)ethylamine | FC=1C=C(C=CC1)C(C)N | C8H10FN
